US04299983
The procedure of Example IV is repeated with the exception that 3,4-dimethylaniline was substituted for 3,5-dimethylaniline. After a reaction time of 3.5 hours, the crude reaction product was recrystallized once from hexane to give an 84 percent yield of 3,4-dimethyldiphenylamine having a melting point of 55°-55.5° C.

reactant | 3,4-dimethylaniline | CC=1C=C(N)C=CC1C | C8H11N
reactant | 3,5-dimethylaniline | CC=1C=C(N)C=C(C1)C | C8H11N
product | 3,4-dimethyldiphenylamine | 84 percent yield | CC1=C(C=C(C=C1)NC2=CC=CC=C2)C | C14H15N
